US08937083B2
To a solution of 3-(4-iodo-3-methyl-1H-pyrazol-1-yl)pyridine (2.0 g, 7.02 mmol) in dimethylsulfoxide (7.02 ml) was added 1-(5,6,7,8-tetrahydroquinolin-8-yl)ethanone (0.246 g, 1.403 mmol), cyclopropanamine (0.486 ml, 7.02 mmol), cesium carbonate (6.86 g, 21.05 mmol) and copper(I) bromide (0.101 g, 0.702 mmol). The reaction mixture was stirred at 35° C. for 2 days. The reaction mixture was diluted with water and extracted with dichloromethane. The combined organics were washed with brine, concentrated and chromatographed (0-100% ethyl acetate/hexanes) to give N-cyclopropyl-3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine (269 mg, 1.255 mmol, 17.90%) as a yellow solid: mp 104.0-107.0° C.; 1H NMR (400 MHz, CDCl3) δ 8.89 (dd, J=2.7, 0.5 Hz, 1H), 8.41 (dd, J=4.7, 1.4 Hz, 1H), 7.96 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.51 (s, 1H), 7.33 (ddd, J=8.3, 4.7, 0.7 Hz, 1H), 3.42 (s, 1H), 2.53-2.42 (m, 1H), 2.22 (s, 3H), 0.72-0.65 (m, 2H), 0.60-0.53 (m, 2H); ESIMS m/z 215 ([M+H]+).

reactant | 3-(4-iodo-3-methyl-1H-pyrazol-1-yl)pyridine | 7.02 mmol, 2.0 g | IC=1C(=NN(C1)C=1C=NC=CC1)C | C9H8IN3
reactant | 1-(5,6,7,8-tetrahydroquinolin-8-yl)ethanone | 1.403 mmol, 0.246 g | N1=CC=CC=2CCCC(C12)C(C)=O | C11H13NO
reactant | cyclopropanamine | 7.02 mmol, 0.486 ml | C1(CC1)N | C3H7N
reactant | cesium carbonate | 21.05 mmol, 6.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulfoxide | 7.02 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | copper(I) bromide | 0.702 mmol, 0.101 g | [Cu]Br
product | N-cyclopropyl-3-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine | 1.255 mmol, 269 mg, 17.90% | C1(CC1)NC=1C(=NN(C1)C=1C=NC=CC1)C | C12H14N4
